US08349893B2
Sodium hydride (60% dispersion in mineral oil; 0.65 g, 16 mmol) was added portionwise at room temperature to a stirred solution of (8-carboxy-octyl)-triphenyl-phosphonium bromide (2.8 g, 5.6 mmol) in tetrahydrofuran (30 mL) at room temperature, then after 1 hour 2,6-dimethylbenzaldehyde (757 mg, 5.64 mmol) was added portionwise to the reaction mixture and the solution stirred for 2 days at room temperature. On reaction completion, water (10 ml) was added and the solution acidified to pH 3 with concentrated hydrochloric acid. The product was extracted with ethyl acetate, the organic layer dried over magnesium sulfate, filtered and evaporated. Chromatography (SiO2, heptane-ethyl acetate 4:1) afforded 10-(2,6-dimethyl-phenyl)-dec-9-enoic acid as a colorless oil.

reactant | Sodium hydride | 16 mmol, 0.65 g | [H-].[Na+]
reactant | (8-carboxy-octyl)-triphenyl-phosphonium bromide | 5.6 mmol, 2.8 g | [Br-].C(=O)(O)CCCCCCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 2,6-dimethylbenzaldehyde | 5.64 mmol, 757 mg | CC1=C(C=O)C(=CC=C1)C | C9H10O
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | water | 10 ml | O | H2O
product | 10-(2,6-dimethyl-phenyl)-dec-9-enoic acid | CC1=C(C(=CC=C1)C)C=CCCCCCCCC(=O)O | C18H26O2
